US06177443B1
[7-Chloro-1-(2,3-dihydrobenzofuran-7-yl)-8-methoxy-1,2,4,5-tetrahydrobenzo[d]azepin-3-yl]-[4-(2-dimethylaminoethoxy)-phenyl]-methanone, (compound No. 39)
Similarly as described in example 22 using a solution of 7-chloro-1-(2,3-dihydrobenzofuran-7-yl)-8-methoxy-1,2,4,5-tetrahydrobenzo[d]azepine in N,N-dimethylformamide (0.375 M, 0.4 ml, 0.15 mmol), a suspension of 4-(2-dimethylaminoethoxy)benzoic acid hydrochloride in N,N-dimethylformamide (0.375 M, 0.4 ml, 0.15 mmol), triethylamine (42 pi), and 0.25 ml of a suspension of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride in dichloromethane (1.73 g in 8.3 ml) affords the title compound.

reactant | 7-chloro-1-(2,3-dihydrobenzofuran-7-yl)-8-methoxy-1,2,4,5-tetrahydrobenzo[d]azepine | ClC1=CC2=C(C(CNCC2)C2=CC=CC=3CCOC32)C=C1OC | C19H20ClNO2
reactant | N,N-dimethylformamide | 0.15 mmol, 0.375 M, 0.4 ml | CN(C=O)C | C3H7NO
reactant | 4-(2-dimethylaminoethoxy)benzoic acid hydrochloride | Cl.CN(CCOC1=CC=C(C(=O)O)C=C1)C
reactant | N,N-dimethylformamide | 0.15 mmol, 0.375 M, 0.4 ml | CN(C=O)C | C3H7NO
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 8.3 ml, 1.73 g | ClCCl | CH2Cl2
product | [7-Chloro-1-(2,3-dihydrobenzofuran-7-yl)-8-methoxy-1,2,4,5-tetrahydrobenzo[d]azepin-3-yl]-[4-(2-dimethylaminoethoxy)-phenyl]-methanone | ClC1=CC2=C(C(CN(CC2)C(=O)C2=CC=C(C=C2)OCCN(C)C)C2=CC=CC=3CCOC32)C=C1OC | C30H33ClN2O4
